US04939241
O-[2-Diazo-3(R)-hydroxy-1-oxobutyl]-N-trifluoroacetyl-L-serine
To a solution of O-(L-threonyl)-N-(trifluoroacetyl)-L-serine (109 mg) were added aqueous 4M chloroacetic acid (20 μl) and aqueous 6M potassium nitrite (120 μl) and the solution was stirred at room temperature for 15 minutes.

reactant | O-(L-threonyl)-N-(trifluoroacetyl)-L-serine | 109 mg | N[C@@H]([C@H](O)C)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O | C9H13F3N2O6
reactant | chloroacetic acid | 4M, 20 μl | ClCC(=O)O | C2H3ClO2
reactant | potassium nitrite | 6M, 120 μl | N(=O)[O-].[K+]
product | O-[2-Diazo-3(R)-hydroxy-1-oxobutyl]-N-trifluoroacetyl-L-serine | [N+](=[N-])=C(C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)[C@@H](C)O | C9H10F3N3O6
